US04578393
The basic aqueous solution from the above experiment was made acidic with 5N hydrochloric acid, and evaporated to dryness to leave a white solid, containing 1-(4-carboxyphenyl)-1,4-dihydro-3-dimethylaminoisoquinoline hydrochloride. The crude acid was suspended in methanol (100 ml) and ethereal hydrogen chloride (2 ml) at room temperature for 16 h. The suspension was filtered and the filtrate was evaporated under reduced pressure. The residue was dissolved in dilute hydrochloric acid, washed with ethyl acetate, then basified with 10% sodium hydroxide solution and extracted with ethyl acetate. The extracts were washed with brine, dried (MgSO4) and ethereal HCl was added. The solvent was removed under reduced pressure and the residual solid was recrystallised from dichloroethane/ethyl acetate to give 1-(4-carbomethoxyphenyl)-1,4-dihydro-3-dimethylamino-isoquinoline hydrochloride as a pale yellow powder, m.p. 187°-193° C.

reactant | hydrochloric acid | 5N | Cl | ClH
reactant | 1-(4-carboxyphenyl)-1,4-dihydro-3-dimethylaminoisoquinoline hydrochloride | Cl.C(=O)(O)C1=CC=C(C=C1)C1N=C(CC2=CC=CC=C12)N(C)C
reactant | hydrogen chloride | 2 ml | Cl | ClH
reactant | methanol | 100 ml | CO | CH4O
product | 1-(4-carbomethoxyphenyl)-1,4-dihydro-3-dimethylamino-isoquinoline hydrochloride | Cl.C(=O)(OC)C1=CC=C(C=C1)C1N=C(CC2=CC=CC=C12)N(C)C | InChI=1S/C19H20N2O2.ClH/c1-21(2)17-12-15-6-4-5-7-16(15)18(20-17)13-8-10-14(11-9-13)19(22)23-3;/h4-11,18H,12H2,1-3H3;1H
